US05656662
(3Z,6Z,9Z)-1-Bromo-3,6,9-pentadecatriene.
To a 250 mL three-necked round bottom flask was added under nitrogen 9.46 g (36.1 mmol) of triphenylphosphine dissolved in 150 mL of anhydrous acetonitrile. After cooling to 0° C. (ice-salt bath), bromine (5.77 g, 36.1 mmol) was added dropwise with stirring. The mixture was warmed to room temperature and stirred for 30 minutes. 3,6,9-Pentadecatrienol (6.16 g, 27.75 mmol); dissolved in 50 mL of anhydrous acetonitrile, was added dropwise (15 minutes) and stirred for approximately 4 hours. Upon reaction completion acetonitrile was removed in vacuo and the residue was dissolved in 75 mL of ether. Hexanes were utilized to precipitate the triphenylphosphorane side product which was removed by filtration. The crude residue, obtained after concentration of the filtrate in vacuo, was purified over silica gel using ethyl acetate:hexanes (1:9) as eluant. The product 7.0 g (90%) was obtained as a light yellow oil. IR (neat,cm-1) 2958, 2927, 1652, 1267, 723;1H NMR (CDCl3) δ 5.69-5.28 (m, 6H), 3.38 (t, J=7.1 Hz, 2H), 2.89-2.75 (m, 4H), 2.75-2.52 (m, 2H), 2.12-1.93 (m, 2H), 1.49-1.31 (m, 6H), 0.89 (t, J=6.8 Hz, 3H); 13C NMR (CDCl3) δ 131.0, 130.6, 128.9, 127.4 (2C), 126.3, 32.2, 31.5, 30.9, 29.3, 27.3, 25.8, 25.7, 22.6, 14.0; HRMS calculated for C15H25Br (M+) 284.1139, found 284.1101.

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 36.1 mmol, 5.77 g | BrBr | Br2
reactant | 3,6,9-Pentadecatrienol | 27.75 mmol, 6.16 g | C(CC=CCC=CCC=CCCCCC)O | C15H26O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (3Z,6Z,9Z)-1-Bromo-3,6,9-pentadecatriene | 7.0 g, 90% | BrCC\C=C/C\C=C/C\C=C/CCCCC | C15H25Br
